US08232294B2
Step 1) benzyl 3-hydroxypropanoate
3-Hydroxypropanoic acid solution (12 g, 40 mmol, 30% in H2O solution, TCI, TOKYOKASEI) and KOH (2.24 g, 40 mmol, Shantou Xilong chemical factory) was stirred at rt for 30 min, the mixture was concentrated in vacuo to give a white solid. The solid was suspended in 50 mL of DMF was added BnBr (4.75 mL, 40 mmol, Aldrich) via a syringe at rt. After stirring at 80° C. for 5 h, the reaction mixture concentrated in vacuo. The residue was purified by a silica gel column chromatography (10:1 (v/v) petroleum ether/EtOAc) to give the title compound as colorless oil (3.35 g, 46%).

reactant | 3-Hydroxypropanoic acid | 40 mmol, 12 g | OCCC(=O)O | C3H6O3
reactant | KOH | 40 mmol, 2.24 g | [OH-].[K+]
reactant | BnBr | 40 mmol, 4.75 mL | C1=CC=C(C=C1)CBr | C7H7Br
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | benzyl 3-hydroxypropanoate | 3.35 g, 46% | OCCC(=O)OCC1=CC=CC=C1 | C10H12O3
